spice
* NMOS Example Circuit
VDD 3 0 DC 1.8V
R1 3 2 4k
? Missing component
RD 3 5 2k
RS 5 0 1k
M1 5 2 0 0 NMOS_model
.model NMOS_model NMOS (Level=1)
* End of netlist
